US08541588B2
[(2Z)-2-[({4-[4-Chloro-2-(1-methyl-1H-pyrazol-5-yl)phenoxy]-3-cyanophenyl}sulfonyl)imino]-1,3-thiazol-3(2H)-yl]methyl dihydrogen phosphate
Di-tert-butyl [(2Z)-2-[({4-[4-chloro-2-(1-methyl-1H-pyrazol-5-yl)phenoxy]-3-cyanophenyl}sulfonyl)imino]-1,3-thiazol-3(2H)-yl]methyl phosphate, (Example 1040, 250 mg, 0.00036 mol) was dissolved in ethyl acetate (10 mL) and then trifluoroacetic acid (1 mL) was added. The solution was stirred at room temperature for 3 hours, then a further portion of trifluoroacetic acid (2 mL) was added and stirred at room temperature for 18 hours. The solvents were removed in vacuo and the residue was partitioned between tert-butylmethyl ether (30 mL) and water (40 mL) and a few drops of aqueous sodium hydroxide solution (2 molar). The aqueous layer was then acidified to pH 1-2 with aqueous hydrochloric acid (2 molar) to give a sticky cream precipitate which was dissolved in a mixture of dichloromethane, ethanol and methanol. This organic layer was dried over anhydrous sodium sulphate, filtered and the solvents removed in vacuo to give the crude product which was triturated with ethyl acetate to give the title compound as a buff powder, (85 mg).

reactant | Di-tert-butyl [(2Z)-2-[({4-[4-chloro-2-(1-methyl-1H-pyrazol-5-yl)phenoxy]-3-cyanophenyl}sulfonyl)imino]-1,3-thiazol-3(2H)-yl]methyl phosphate | P(=O)(OC(C)(C)C)(OC(C)(C)C)OCN1/C(/SC=C1)=N/S(=O)(=O)C1=CC(=C(C=C1)OC1=C(C=C(C=C1)Cl)C1=CC=NN1C)C#N | C29H33ClN5O7PS2
reactant | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | ethanol | C(C)O | C2H6O
solvent | methanol | CO | CH4O
product | [(2Z)-2-[({4-[4-Chloro-2-(1-methyl-1H-pyrazol-5-yl)phenoxy]-3-cyanophenyl}sulfonyl)imino]-1,3-thiazol-3(2H)-yl]methyl dihydrogen phosphate | P(=O)(OCN1/C(/SC=C1)=N/S(=O)(=O)C1=CC(=C(C=C1)OC1=C(C=C(C=C1)Cl)C1=CC=NN1C)C#N)(O)O | C21H17ClN5O7PS2
